US04371537
In 70 ml of sulfolane were mixed 10.5 g of 2,5-bis(ethylsulfonyl)pyridine, 15.8 g of 2,4,5-trichlorophenol and 11.06 g of potassium carbonate. The mixture was warmed gradually to 170° C. and maintained at that temperature for 2 hrs. The reaction mixture was cooled and then poured into 300 g of ice containing 4 g of sodium hydroxide. The aqueous solution was extracted with ether. The organic layer was washed with water, dried over MgSO4 and concentrated. The product was purified using a Water's Prep LC 500 instrument with 10% ethyl acetate/90% hexane as eluent. Recrystallization from diethyl ether gave 2.8 g, (19% yield), of purified 5-(ethylsulfonyl)-2-(2,4,5-trichlorophenoxy)pyridine, m.p. 120°-122° C.

reactant | 2,5-bis(ethylsulfonyl)pyridine | 10.5 g | C(C)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)CC | C9H13NO4S2
reactant | 2,4,5-trichlorophenol | 15.8 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | potassium carbonate | 11.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfolane | 70 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-(ethylsulfonyl)-2-(2,4,5-trichlorophenoxy)pyridine | 2.8 g, 19% yield | C(C)S(=O)(=O)C=1C=CC(=NC1)OC1=C(C=C(C(=C1)Cl)Cl)Cl | C13H10Cl3NO3S
